US08071581B2
Step 3: (7-Methyl-quinolin-6-yl)-acetic acid
3.2 g of (7-methyl-quinolin-6-yl)-acetic acid tert-butyl ester in 25 ml of aqueous NaOH (4N) was heated to reflux for 4 h. The mixture was washed with ethyl acetate and added concentrated hydrochloric acid to pH 7. A white solid formed which was filtered and dried to return the title compound (1.5 g, 71.1%). 1H NMR (DMSO-d6, 300 MHz) δ 12.46 (s, 1H), 8.82 (m, 1H), 8.26 (m, 1H), 7.82 (s, 1H), 7.77 (s, 1H), 7.44 (m, 1H), 3.80 (s, 2H), 2.44 (s, 3H) ES-MS m/z: 202 (M++H).

reactant | (7-methyl-quinolin-6-yl)-acetic acid tert-butyl ester | 3.2 g | C(C)(C)(C)OC(CC=1C=C2C=CC=NC2=CC1C)=O | C16H19NO2
solvent | NaOH | 4N, 25 ml | [OH-].[Na+]
product | (7-Methyl-quinolin-6-yl)-acetic acid | CC1=C(C=C2C=CC=NC2=C1)CC(=O)O | C12H11NO2
